US06498254B1
Preparation of 2-[1-(2,5-dimethylphenyl)ethylsulfonyl]pyridine
A mixture of 4.7 g (0.017 mole) of 2-[1-(2,5-Dimethylphenyl)-ethylsulfonyl]-pyridine-N-oxide, 60 ml of chloroform, and 7.5 g (0.055 mole) of PCl3 were placed in a 100 ml round bottom flask equipped with a magnetic stirrer and reflux condenser. The mixture was refluxed for one hour, and then the solvent was removed under reduced pressure using a rotovap. To the residue was added 25 ml of ethanol, followed by a second evaporation. The residue crystallized to give a white solid, which was recrystallized from ethanol. Obtained were 3.0 g of product having a melting point of 95-96° C. The IR, NMR and mass spectra were consistent with the proposed structure.

reactant | 2-[1-(2,5-Dimethylphenyl)-ethylsulfonyl]-pyridine-N-oxide | 0.017 mole, 4.7 g | CC1=C(C=C(C=C1)C)C(C)S(=O)(=O)C1=[N+](C=CC=C1)[O-] | C15H17NO3S
reactant | PCl3 | 0.055 mole, 7.5 g | P(Cl)(Cl)Cl | Cl3P
solvent | chloroform | 60 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-[1-(2,5-dimethylphenyl)ethylsulfonyl]pyridine | CC1=C(C=C(C=C1)C)C(C)S(=O)(=O)C1=NC=CC=C1 | C15H17NO2S
